US07402581B2
1-[1-(Diphenylmethyl)azetidin-3-yl]pyrrolidin-3-ol (310 mg, 0.98 mmol) was dissolved in ethanol (20 mL). A mixture of palladium hydroxide on carbon and palladium on activated carbon was added and to the resultant mixture was then added concentrated HCl (0.1 mL) dropwise. The mixture was stirred under hydrogen (5 atm) at room temperature overnight and then the catalyst was filtered off by means of Celite®. The solvent was removed by evaporation and the residue triturated with CH2Cl2. There was obtained 154 mg (79%) of 1-azetidin-3-ylpyrrolidin-3-ol dihydrochloride as a solid. 13C NMR (75 MHz, D2O): 48.8 (s), 65.1 (s), 67.7 (s), 70.9 (s), 76.2 (s), 85.7 (s); LCMS: m/z 143 (M+1)+.

reactant | 1-[1-(Diphenylmethyl)azetidin-3-yl]pyrrolidin-3-ol | 0.98 mmol, 310 mg | C1(=CC=CC=C1)C(N1CC(C1)N1CC(CC1)O)C1=CC=CC=C1 | C20H24N2O
reactant | HCl | 0.1 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | [Pd] | Pd
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 1-azetidin-3-ylpyrrolidin-3-ol dihydrochloride | 154 mg, 79% | Cl.Cl.N1CC(C1)N1CC(CC1)O | InChI=1S/C7H14N2O.2ClH/c10-7-1-2-9(5-7)6-3-8-4-6;;/h6-8,10H,1-5H2;2*1H
